US06992083B2
To a stirred solution of 10 g (66 mmol) 2-amino-benzooxazol-4-ol in 100 ml tetrahydrofuran at room temperature was added portionwise 3.49 g (79.9 mmol) sodium hydride (55% dispersion in oil), and the mixture was then stirred for 1 h at 50° C. A solution of 14.5 ml (233 mmol) iodomethane in 500 ml tetrahydrofuran was then added dropwise over 3 h, while the reaction mixture was maintained at 50° C. The mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (dichloromethane then 2/98 methanol/dichloromethane) afforded 7.5 g (69%) 4-methoxy-benzooxazol-2-yl-amine as a brown crystalline solid. EI-MS m/e (%): 164 (M+, 100), 149 ([M−CH3]+, 23), 135 (46).

reactant | 2-amino-benzooxazol-4-ol | 66 mmol, 10 g | NC=1OC=2C(N1)=C(C=CC2)O | C7H6N2O2
reactant | sodium hydride | 79.9 mmol, 3.49 g | [H-].[Na+]
reactant | iodomethane | 233 mmol, 14.5 ml | IC | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 4-methoxy-benzooxazol-2-yl-amine | 7.5 g, 69% | COC1=CC=CC2=C1N=C(O2)N | C8H8N2O2
